US04554014
Preparation of O-[2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy[propionyl]-α-diethylaminoacetaldoxime
Acetaldoxime (0.59 g, 0.01 mole) and N-chlorosuccinamide (1.34 g, 0.01 mole) were charged into a round-bottom flask which contained 5 milliliters (ml) of dimethylformamide (DMF). After the exotherm had subsided, a solution of diethylamine (0.73 g, 0.01 mole) and triethylamine (1.01 g, 0.01 mole) in 1.4 ml of DMF was added. After stirring for 1 hour at room temperature, 2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]propionyl chloride was added and the reaction was allowed to proceed to completion. The reaction mixture was then partitioned between ether and 1N hydrochloric acid. The ether layer was then washed with 5% potassium carbonate and brine. After drying over magnesium sulfate, the ether layer was concentrated in vacuo to afford the crude product. Chromatography employing 50 g of silica gel and hexane-ethyl acetate (2:1) as the eluent afforded 0.85 g of pure product which was identified by conventional techniques.

reactant | Acetaldoxime | 0.01 mole, 0.59 g | C(C)=NO | C2H5NO
reactant | N-chlorosuccinamide | 0.01 mole, 1.34 g | ClNC(CCC(=O)N)=O | C4H7ClN2O2
reactant | diethylamine | 0.01 mole, 0.73 g | C(C)NCC | C4H11N
reactant | triethylamine | 0.01 mole, 1.01 g | C(C)N(CC)CC | C6H15N
reactant | 2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]propionyl chloride | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(=O)Cl)C)C=C1)(F)F | C15H11ClF3NO3
solvent | DMF | 1.4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 milliliters | CN(C=O)C | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 4-(5-trifluoromethyl-2-pyridyloxy)phenoxy[propionyl]-α-diethylaminoacetaldoxime | 0.85 g | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C=NO)(N(CC)CC)C(CC)=O)C=C1)(F)F | C21H24F3N3O4
